US09029405B2
Step 1: 4-(2-methoxyacetoyl)benzonitrile
Iso-propyl magnesium chloride (2 M solution in THF; 3.0 mL; 6.0 mmol) was added to an ice-cooled solution of 4-iodobenzonitrile (1.2 g, 5.0 mmol) in anhydrous THF (10 mL). This solution was stirred at this temperature for 10 minutes and then added dropwise to a cooled (−78° C.) solution of N-2-dimethoxy-N-methylacetamide (0.998 g, 7.50 mmol) in anhydrous THF (5 mL). The reaction mixture was stirred at this temperature for 1 hour and then stirred at RT for 1 hour. The reaction mixture was then treated with 10% aqueous potassium hydrogen sulfate solution and extracted with DCM. The organic phase was passed through a hydrophobic frit and evaporated under reduced pressure. The residue was purified by flash chromatography eluting with iso-hexane/EtOAc (3:2) to afford the title compound. 1H NMR (CDCl3, 400 MHz) δ 8.06-8.04 (m, 2H), 7.80-7.77 (m, 2H), 4.67 (s, 2H), 3.50 (s, 3H).

reactant | Iso-propyl magnesium chloride | 6.0 mmol, 2 M, 3.0 mL | C(C)(C)[Mg]Cl
reactant | 4-iodobenzonitrile | 5.0 mmol, 1.2 g | IC1=CC=C(C#N)C=C1 | C7H4IN
reactant | potassium hydrogen sulfate | S(=O)(=O)(O)[O-].[K+]
reactant | THF | 10 mL | C1CCOC1 | C4H8O
reactant | THF | 5 mL | C1CCOC1 | C4H8O
product | 4-(2-methoxyacetoyl)benzonitrile | COCC(=O)C1=CC=C(C#N)C=C1 | C10H9NO2
